*-- pdngen: spice deck generated for chip 'chiplet4' PDN
*-- die chiplet4:  W/H: 0.002/0.004


.subckt chiplet4
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
*-- p/g port #: 16/16
+nd_1_0_7000_3500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_500 nd_1_0_3000_500 0.016324
rd_1_2_0_0_1 nd_1_0_3000_500 nd_1_0_5000_500 0.016324
rd_1_2_0_0_2 nd_1_0_5000_500 nd_1_0_7000_500 0.016324
rd_1_2_0_0_3 nd_1_0_7000_500 nd_1_0_9000_500 0.016324
rd_1_2_0_1_0 nd_1_0_1000_1500 nd_1_0_3000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_3000_1500 nd_1_0_5000_1500 0.016324
rd_1_2_0_1_2 nd_1_0_5000_1500 nd_1_0_7000_1500 0.016324
rd_1_2_0_1_3 nd_1_0_7000_1500 nd_1_0_9000_1500 0.016324
rd_1_2_0_2_0 nd_1_0_1000_2500 nd_1_0_3000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_3000_2500 nd_1_0_5000_2500 0.016324
rd_1_2_0_2_2 nd_1_0_5000_2500 nd_1_0_7000_2500 0.016324
rd_1_2_0_2_3 nd_1_0_7000_2500 nd_1_0_9000_2500 0.016324
rd_1_2_0_3_0 nd_1_0_1000_3500 nd_1_0_3000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_3000_3500 nd_1_0_5000_3500 0.016324
rd_1_2_0_3_2 nd_1_0_5000_3500 nd_1_0_7000_3500 0.016324
rd_1_2_0_3_3 nd_1_0_7000_3500 nd_1_0_9000_3500 0.016324
rd_1_2_0_4_0 nd_1_0_1000_4500 nd_1_0_3000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_3000_4500 nd_1_0_5000_4500 0.016324
rd_1_2_0_4_2 nd_1_0_5000_4500 nd_1_0_7000_4500 0.016324
rd_1_2_0_4_3 nd_1_0_7000_4500 nd_1_0_9000_4500 0.016324
rd_1_2_0_5_0 nd_1_0_1000_5500 nd_1_0_3000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_3000_5500 nd_1_0_5000_5500 0.016324
rd_1_2_0_5_2 nd_1_0_5000_5500 nd_1_0_7000_5500 0.016324
rd_1_2_0_5_3 nd_1_0_7000_5500 nd_1_0_9000_5500 0.016324
rd_1_2_0_6_0 nd_1_0_1000_6500 nd_1_0_3000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_3000_6500 nd_1_0_5000_6500 0.016324
rd_1_2_0_6_2 nd_1_0_5000_6500 nd_1_0_7000_6500 0.016324
rd_1_2_0_6_3 nd_1_0_7000_6500 nd_1_0_9000_6500 0.016324
rd_1_2_0_7_0 nd_1_0_1000_7500 nd_1_0_3000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_3000_7500 nd_1_0_5000_7500 0.016324
rd_1_2_0_7_2 nd_1_0_5000_7500 nd_1_0_7000_7500 0.016324
rd_1_2_0_7_3 nd_1_0_7000_7500 nd_1_0_9000_7500 0.016324
rd_1_2_0_8_0 nd_1_0_1000_8500 nd_1_0_3000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_3000_8500 nd_1_0_5000_8500 0.016324
rd_1_2_0_8_2 nd_1_0_5000_8500 nd_1_0_7000_8500 0.016324
rd_1_2_0_8_3 nd_1_0_7000_8500 nd_1_0_9000_8500 0.016324
rd_1_2_0_9_0 nd_1_0_1000_9500 nd_1_0_3000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_3000_9500 nd_1_0_5000_9500 0.016324
rd_1_2_0_9_2 nd_1_0_5000_9500 nd_1_0_7000_9500 0.016324
rd_1_2_0_9_3 nd_1_0_7000_9500 nd_1_0_9000_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_500 nd_2_0_1000_1500 0.016324
rd_2_1_0_0_1 nd_2_0_1000_1500 nd_2_0_1000_2500 0.016324
rd_2_1_0_0_2 nd_2_0_1000_2500 nd_2_0_1000_3500 0.016324
rd_2_1_0_0_3 nd_2_0_1000_3500 nd_2_0_1000_4500 0.016324
rd_2_1_0_0_4 nd_2_0_1000_4500 nd_2_0_1000_5500 0.016324
rd_2_1_0_0_5 nd_2_0_1000_5500 nd_2_0_1000_6500 0.016324
rd_2_1_0_0_6 nd_2_0_1000_6500 nd_2_0_1000_7500 0.016324
rd_2_1_0_0_7 nd_2_0_1000_7500 nd_2_0_1000_8500 0.016324
rd_2_1_0_0_8 nd_2_0_1000_8500 nd_2_0_1000_9500 0.016324
rd_2_1_0_1_0 nd_2_0_3000_500 nd_2_0_3000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_3000_1500 nd_2_0_3000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_3000_2500 nd_2_0_3000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_3000_3500 nd_2_0_3000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_3000_4500 nd_2_0_3000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_3000_5500 nd_2_0_3000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_3000_6500 nd_2_0_3000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_3000_7500 nd_2_0_3000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_3000_8500 nd_2_0_3000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_5000_500 nd_2_0_5000_1500 0.016324
rd_2_1_0_2_1 nd_2_0_5000_1500 nd_2_0_5000_2500 0.016324
rd_2_1_0_2_2 nd_2_0_5000_2500 nd_2_0_5000_3500 0.016324
rd_2_1_0_2_3 nd_2_0_5000_3500 nd_2_0_5000_4500 0.016324
rd_2_1_0_2_4 nd_2_0_5000_4500 nd_2_0_5000_5500 0.016324
rd_2_1_0_2_5 nd_2_0_5000_5500 nd_2_0_5000_6500 0.016324
rd_2_1_0_2_6 nd_2_0_5000_6500 nd_2_0_5000_7500 0.016324
rd_2_1_0_2_7 nd_2_0_5000_7500 nd_2_0_5000_8500 0.016324
rd_2_1_0_2_8 nd_2_0_5000_8500 nd_2_0_5000_9500 0.016324
rd_2_1_0_3_0 nd_2_0_7000_500 nd_2_0_7000_1500 0.016324
rd_2_1_0_3_1 nd_2_0_7000_1500 nd_2_0_7000_2500 0.016324
rd_2_1_0_3_2 nd_2_0_7000_2500 nd_2_0_7000_3500 0.016324
rd_2_1_0_3_3 nd_2_0_7000_3500 nd_2_0_7000_4500 0.016324
rd_2_1_0_3_4 nd_2_0_7000_4500 nd_2_0_7000_5500 0.016324
rd_2_1_0_3_5 nd_2_0_7000_5500 nd_2_0_7000_6500 0.016324
rd_2_1_0_3_6 nd_2_0_7000_6500 nd_2_0_7000_7500 0.016324
rd_2_1_0_3_7 nd_2_0_7000_7500 nd_2_0_7000_8500 0.016324
rd_2_1_0_3_8 nd_2_0_7000_8500 nd_2_0_7000_9500 0.016324
rd_2_1_0_4_0 nd_2_0_9000_500 nd_2_0_9000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_9000_1500 nd_2_0_9000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_9000_2500 nd_2_0_9000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_9000_3500 nd_2_0_9000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_9000_4500 nd_2_0_9000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_9000_5500 nd_2_0_9000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_9000_6500 nd_2_0_9000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_9000_7500 nd_2_0_9000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_9000_8500 nd_2_0_9000_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_500 nd_2_0_1000_500 0.005
rvd_1_0_0_1 nd_1_0_3000_500 nd_2_0_3000_500 0.005
rvd_1_0_0_2 nd_1_0_5000_500 nd_2_0_5000_500 0.005
rvd_1_0_0_3 nd_1_0_7000_500 nd_2_0_7000_500 0.005
rvd_1_0_0_4 nd_1_0_9000_500 nd_2_0_9000_500 0.005
rvd_1_0_1_0 nd_1_0_1000_1500 nd_2_0_1000_1500 0.005
rvd_1_0_1_1 nd_1_0_3000_1500 nd_2_0_3000_1500 0.005
rvd_1_0_1_2 nd_1_0_5000_1500 nd_2_0_5000_1500 0.005
rvd_1_0_1_3 nd_1_0_7000_1500 nd_2_0_7000_1500 0.005
rvd_1_0_1_4 nd_1_0_9000_1500 nd_2_0_9000_1500 0.005
rvd_1_0_2_0 nd_1_0_1000_2500 nd_2_0_1000_2500 0.005
rvd_1_0_2_1 nd_1_0_3000_2500 nd_2_0_3000_2500 0.005
rvd_1_0_2_2 nd_1_0_5000_2500 nd_2_0_5000_2500 0.005
rvd_1_0_2_3 nd_1_0_7000_2500 nd_2_0_7000_2500 0.005
rvd_1_0_2_4 nd_1_0_9000_2500 nd_2_0_9000_2500 0.005
rvd_1_0_3_0 nd_1_0_1000_3500 nd_2_0_1000_3500 0.005
rvd_1_0_3_1 nd_1_0_3000_3500 nd_2_0_3000_3500 0.005
rvd_1_0_3_2 nd_1_0_5000_3500 nd_2_0_5000_3500 0.005
rvd_1_0_3_3 nd_1_0_7000_3500 nd_2_0_7000_3500 0.005
rvd_1_0_3_4 nd_1_0_9000_3500 nd_2_0_9000_3500 0.005
rvd_1_0_4_0 nd_1_0_1000_4500 nd_2_0_1000_4500 0.005
rvd_1_0_4_1 nd_1_0_3000_4500 nd_2_0_3000_4500 0.005
rvd_1_0_4_2 nd_1_0_5000_4500 nd_2_0_5000_4500 0.005
rvd_1_0_4_3 nd_1_0_7000_4500 nd_2_0_7000_4500 0.005
rvd_1_0_4_4 nd_1_0_9000_4500 nd_2_0_9000_4500 0.005
rvd_1_0_5_0 nd_1_0_1000_5500 nd_2_0_1000_5500 0.005
rvd_1_0_5_1 nd_1_0_3000_5500 nd_2_0_3000_5500 0.005
rvd_1_0_5_2 nd_1_0_5000_5500 nd_2_0_5000_5500 0.005
rvd_1_0_5_3 nd_1_0_7000_5500 nd_2_0_7000_5500 0.005
rvd_1_0_5_4 nd_1_0_9000_5500 nd_2_0_9000_5500 0.005
rvd_1_0_6_0 nd_1_0_1000_6500 nd_2_0_1000_6500 0.005
rvd_1_0_6_1 nd_1_0_3000_6500 nd_2_0_3000_6500 0.005
rvd_1_0_6_2 nd_1_0_5000_6500 nd_2_0_5000_6500 0.005
rvd_1_0_6_3 nd_1_0_7000_6500 nd_2_0_7000_6500 0.005
rvd_1_0_6_4 nd_1_0_9000_6500 nd_2_0_9000_6500 0.005
rvd_1_0_7_0 nd_1_0_1000_7500 nd_2_0_1000_7500 0.005
rvd_1_0_7_1 nd_1_0_3000_7500 nd_2_0_3000_7500 0.005
rvd_1_0_7_2 nd_1_0_5000_7500 nd_2_0_5000_7500 0.005
rvd_1_0_7_3 nd_1_0_7000_7500 nd_2_0_7000_7500 0.005
rvd_1_0_7_4 nd_1_0_9000_7500 nd_2_0_9000_7500 0.005
rvd_1_0_8_0 nd_1_0_1000_8500 nd_2_0_1000_8500 0.005
rvd_1_0_8_1 nd_1_0_3000_8500 nd_2_0_3000_8500 0.005
rvd_1_0_8_2 nd_1_0_5000_8500 nd_2_0_5000_8500 0.005
rvd_1_0_8_3 nd_1_0_7000_8500 nd_2_0_7000_8500 0.005
rvd_1_0_8_4 nd_1_0_9000_8500 nd_2_0_9000_8500 0.005
rvd_1_0_9_0 nd_1_0_1000_9500 nd_2_0_1000_9500 0.005
rvd_1_0_9_1 nd_1_0_3000_9500 nd_2_0_3000_9500 0.005
rvd_1_0_9_2 nd_1_0_5000_9500 nd_2_0_5000_9500 0.005
rvd_1_0_9_3 nd_1_0_7000_9500 nd_2_0_7000_9500 0.005
rvd_1_0_9_4 nd_1_0_9000_9500 nd_2_0_9000_9500 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_500 0 34.0864
rdesr_0_0_0_0 nd_1_0_1000_500 nd_1_0_1000_500_ci 34.0864
cd_0_0_0_0 nd_1_0_1000_500_ci 0 5.86744e-11
rdload_0_0_0_1 nd_1_0_3000_500 0 96.503
rdesr_0_0_0_1 nd_1_0_3000_500 nd_1_0_3000_500_ci 96.503
cd_0_0_0_1 nd_1_0_3000_500_ci 0 2.07248e-11
rdload_0_0_0_2 nd_1_0_5000_500 0 161.733
rdesr_0_0_0_2 nd_1_0_5000_500 nd_1_0_5000_500_ci 161.733
cd_0_0_0_2 nd_1_0_5000_500_ci 0 1.23661e-11
rdload_0_0_0_3 nd_1_0_7000_500 0 512.3
rdesr_0_0_0_3 nd_1_0_7000_500 nd_1_0_7000_500_ci 512.3
cd_0_0_0_3 nd_1_0_7000_500_ci 0 3.90396e-12
rdload_0_0_0_4 nd_1_0_9000_500 0 43.1264
rdesr_0_0_0_4 nd_1_0_9000_500 nd_1_0_9000_500_ci 43.1264
cd_0_0_0_4 nd_1_0_9000_500_ci 0 4.63753e-11
rdload_0_0_0_5 nd_1_0_1000_1500 0 244.15
rdesr_0_0_0_5 nd_1_0_1000_1500 nd_1_0_1000_1500_ci 244.15
cd_0_0_0_5 nd_1_0_1000_1500_ci 0 8.1917e-12
rdload_0_0_0_6 nd_1_0_3000_1500 0 78.3306
rdesr_0_0_0_6 nd_1_0_3000_1500 nd_1_0_3000_1500_ci 78.3306
cd_0_0_0_6 nd_1_0_3000_1500_ci 0 2.55328e-11
rdload_0_0_0_7 nd_1_0_5000_1500 0 118.366
rdesr_0_0_0_7 nd_1_0_5000_1500 nd_1_0_5000_1500_ci 118.366
cd_0_0_0_7 nd_1_0_5000_1500_ci 0 1.68968e-11
rdload_0_0_0_8 nd_1_0_7000_1500 0 6595.99
rdesr_0_0_0_8 nd_1_0_7000_1500 nd_1_0_7000_1500_ci 6595.99
cd_0_0_0_8 nd_1_0_7000_1500_ci 0 3.03214e-13
rdload_0_0_0_9 nd_1_0_9000_1500 0 91.0178
rdesr_0_0_0_9 nd_1_0_9000_1500 nd_1_0_9000_1500_ci 91.0178
cd_0_0_0_9 nd_1_0_9000_1500_ci 0 2.19737e-11
rdload_0_0_0_10 nd_1_0_1000_2500 0 46.6793
rdesr_0_0_0_10 nd_1_0_1000_2500 nd_1_0_1000_2500_ci 46.6793
cd_0_0_0_10 nd_1_0_1000_2500_ci 0 4.28455e-11
rdload_0_0_0_11 nd_1_0_3000_2500 0 406.92
rdesr_0_0_0_11 nd_1_0_3000_2500 nd_1_0_3000_2500_ci 406.92
cd_0_0_0_11 nd_1_0_3000_2500_ci 0 4.91497e-12
rdload_0_0_0_12 nd_1_0_5000_2500 0 112.539
rdesr_0_0_0_12 nd_1_0_5000_2500 nd_1_0_5000_2500_ci 112.539
cd_0_0_0_12 nd_1_0_5000_2500_ci 0 1.77717e-11
rdload_0_0_0_13 nd_1_0_7000_2500 0 218.247
rdesr_0_0_0_13 nd_1_0_7000_2500 nd_1_0_7000_2500_ci 218.247
cd_0_0_0_13 nd_1_0_7000_2500_ci 0 9.16392e-12
rdload_0_0_0_14 nd_1_0_9000_2500 0 2388.68
rdesr_0_0_0_14 nd_1_0_9000_2500 nd_1_0_9000_2500_ci 2388.68
cd_0_0_0_14 nd_1_0_9000_2500_ci 0 8.37282e-13
rdload_0_0_0_15 nd_1_0_1000_3500 0 90.067
rdesr_0_0_0_15 nd_1_0_1000_3500 nd_1_0_1000_3500_ci 90.067
cd_0_0_0_15 nd_1_0_1000_3500_ci 0 2.22057e-11
rdload_0_0_0_16 nd_1_0_3000_3500 0 383.498
rdesr_0_0_0_16 nd_1_0_3000_3500 nd_1_0_3000_3500_ci 383.498
cd_0_0_0_16 nd_1_0_3000_3500_ci 0 5.21514e-12
rdload_0_0_0_17 nd_1_0_5000_3500 0 35.5068
rdesr_0_0_0_17 nd_1_0_5000_3500 nd_1_0_5000_3500_ci 35.5068
cd_0_0_0_17 nd_1_0_5000_3500_ci 0 5.63272e-11
rdload_0_0_0_18 nd_1_0_7000_3500 0 109.535
rdesr_0_0_0_18 nd_1_0_7000_3500 nd_1_0_7000_3500_ci 109.535
cd_0_0_0_18 nd_1_0_7000_3500_ci 0 1.8259e-11
rdload_0_0_0_19 nd_1_0_9000_3500 0 199.258
rdesr_0_0_0_19 nd_1_0_9000_3500 nd_1_0_9000_3500_ci 199.258
cd_0_0_0_19 nd_1_0_9000_3500_ci 0 1.00372e-11
rdload_0_0_0_20 nd_1_0_1000_4500 0 88.4186
rdesr_0_0_0_20 nd_1_0_1000_4500 nd_1_0_1000_4500_ci 88.4186
cd_0_0_0_20 nd_1_0_1000_4500_ci 0 2.26197e-11
rdload_0_0_0_21 nd_1_0_3000_4500 0 45.4034
rdesr_0_0_0_21 nd_1_0_3000_4500 nd_1_0_3000_4500_ci 45.4034
cd_0_0_0_21 nd_1_0_3000_4500_ci 0 4.40495e-11
rdload_0_0_0_22 nd_1_0_5000_4500 0 56.2026
rdesr_0_0_0_22 nd_1_0_5000_4500 nd_1_0_5000_4500_ci 56.2026
cd_0_0_0_22 nd_1_0_5000_4500_ci 0 3.55855e-11
rdload_0_0_0_23 nd_1_0_7000_4500 0 41.308
rdesr_0_0_0_23 nd_1_0_7000_4500 nd_1_0_7000_4500_ci 41.308
cd_0_0_0_23 nd_1_0_7000_4500_ci 0 4.84167e-11
rdload_0_0_0_24 nd_1_0_9000_4500 0 50.1333
rdesr_0_0_0_24 nd_1_0_9000_4500 nd_1_0_9000_4500_ci 50.1333
cd_0_0_0_24 nd_1_0_9000_4500_ci 0 3.98937e-11
rdload_0_0_0_25 nd_1_0_1000_5500 0 1233.91
rdesr_0_0_0_25 nd_1_0_1000_5500 nd_1_0_1000_5500_ci 1233.91
cd_0_0_0_25 nd_1_0_1000_5500_ci 0 1.62087e-12
rdload_0_0_0_26 nd_1_0_3000_5500 0 86.7853
rdesr_0_0_0_26 nd_1_0_3000_5500 nd_1_0_3000_5500_ci 86.7853
cd_0_0_0_26 nd_1_0_3000_5500_ci 0 2.30454e-11
rdload_0_0_0_27 nd_1_0_5000_5500 0 55.0768
rdesr_0_0_0_27 nd_1_0_5000_5500 nd_1_0_5000_5500_ci 55.0768
cd_0_0_0_27 nd_1_0_5000_5500_ci 0 3.6313e-11
rdload_0_0_0_28 nd_1_0_7000_5500 0 71.7698
rdesr_0_0_0_28 nd_1_0_7000_5500 nd_1_0_7000_5500_ci 71.7698
cd_0_0_0_28 nd_1_0_7000_5500_ci 0 2.78669e-11
rdload_0_0_0_29 nd_1_0_9000_5500 0 40.9325
rdesr_0_0_0_29 nd_1_0_9000_5500 nd_1_0_9000_5500_ci 40.9325
cd_0_0_0_29 nd_1_0_9000_5500_ci 0 4.88609e-11
rdload_0_0_0_30 nd_1_0_1000_6500 0 49.1936
rdesr_0_0_0_30 nd_1_0_1000_6500 nd_1_0_1000_6500_ci 49.1936
cd_0_0_0_30 nd_1_0_1000_6500_ci 0 4.06557e-11
rdload_0_0_0_31 nd_1_0_3000_6500 0 83.8044
rdesr_0_0_0_31 nd_1_0_3000_6500 nd_1_0_3000_6500_ci 83.8044
cd_0_0_0_31 nd_1_0_3000_6500_ci 0 2.38651e-11
rdload_0_0_0_32 nd_1_0_5000_6500 0 44.2222
rdesr_0_0_0_32 nd_1_0_5000_6500 nd_1_0_5000_6500_ci 44.2222
cd_0_0_0_32 nd_1_0_5000_6500_ci 0 4.52261e-11
rdload_0_0_0_33 nd_1_0_7000_6500 0 54.4452
rdesr_0_0_0_33 nd_1_0_7000_6500 nd_1_0_7000_6500_ci 54.4452
cd_0_0_0_33 nd_1_0_7000_6500_ci 0 3.67342e-11
rdload_0_0_0_34 nd_1_0_9000_6500 0 34.6116
rdesr_0_0_0_34 nd_1_0_9000_6500 nd_1_0_9000_6500_ci 34.6116
cd_0_0_0_34 nd_1_0_9000_6500_ci 0 5.77842e-11
rdload_0_0_0_35 nd_1_0_1000_7500 0 174.068
rdesr_0_0_0_35 nd_1_0_1000_7500 nd_1_0_1000_7500_ci 174.068
cd_0_0_0_35 nd_1_0_1000_7500_ci 0 1.14898e-11
rdload_0_0_0_36 nd_1_0_3000_7500 0 677.811
rdesr_0_0_0_36 nd_1_0_3000_7500 nd_1_0_3000_7500_ci 677.811
cd_0_0_0_36 nd_1_0_3000_7500_ci 0 2.95067e-12
rdload_0_0_0_37 nd_1_0_5000_7500 0 83.1334
rdesr_0_0_0_37 nd_1_0_5000_7500 nd_1_0_5000_7500_ci 83.1334
cd_0_0_0_37 nd_1_0_5000_7500_ci 0 2.40577e-11
rdload_0_0_0_38 nd_1_0_7000_7500 0 125.352
rdesr_0_0_0_38 nd_1_0_7000_7500 nd_1_0_7000_7500_ci 125.352
cd_0_0_0_38 nd_1_0_7000_7500_ci 0 1.59551e-11
rdload_0_0_0_39 nd_1_0_9000_7500 0 70.2115
rdesr_0_0_0_39 nd_1_0_9000_7500 nd_1_0_9000_7500_ci 70.2115
cd_0_0_0_39 nd_1_0_9000_7500_ci 0 2.84854e-11
rdload_0_0_0_40 nd_1_0_1000_8500 0 39.8765
rdesr_0_0_0_40 nd_1_0_1000_8500 nd_1_0_1000_8500_ci 39.8765
cd_0_0_0_40 nd_1_0_1000_8500_ci 0 5.01549e-11
rdload_0_0_0_41 nd_1_0_3000_8500 0 167.3
rdesr_0_0_0_41 nd_1_0_3000_8500 nd_1_0_3000_8500_ci 167.3
cd_0_0_0_41 nd_1_0_3000_8500_ci 0 1.19545e-11
rdload_0_0_0_42 nd_1_0_5000_8500 0 537.636
rdesr_0_0_0_42 nd_1_0_5000_8500 nd_1_0_5000_8500_ci 537.636
cd_0_0_0_42 nd_1_0_5000_8500_ci 0 3.71999e-12
rdload_0_0_0_43 nd_1_0_7000_8500 0 122.031
rdesr_0_0_0_43 nd_1_0_7000_8500 nd_1_0_7000_8500_ci 122.031
cd_0_0_0_43 nd_1_0_7000_8500_ci 0 1.63893e-11
rdload_0_0_0_44 nd_1_0_9000_8500 0 247.228
rdesr_0_0_0_44 nd_1_0_9000_8500 nd_1_0_9000_8500_ci 247.228
cd_0_0_0_44 nd_1_0_9000_8500_ci 0 8.08969e-12
rdload_0_0_0_45 nd_1_0_1000_9500 0 67.6308
rdesr_0_0_0_45 nd_1_0_1000_9500 nd_1_0_1000_9500_ci 67.6308
cd_0_0_0_45 nd_1_0_1000_9500_ci 0 2.95723e-11
rdload_0_0_0_46 nd_1_0_3000_9500 0 95.5671
rdesr_0_0_0_46 nd_1_0_3000_9500 nd_1_0_3000_9500_ci 95.5671
cd_0_0_0_46 nd_1_0_3000_9500_ci 0 2.09277e-11
rdload_0_0_0_47 nd_1_0_5000_9500 0 500.45
rdesr_0_0_0_47 nd_1_0_5000_9500 nd_1_0_5000_9500_ci 500.45
cd_0_0_0_47 nd_1_0_5000_9500_ci 0 3.9964e-12
rdload_0_0_0_48 nd_1_0_7000_9500 0 78.5352
rdesr_0_0_0_48 nd_1_0_7000_9500 nd_1_0_7000_9500_ci 78.5352
cd_0_0_0_48 nd_1_0_7000_9500_ci 0 2.54663e-11
rdload_0_0_0_49 nd_1_0_9000_9500 0 43.1961
rdesr_0_0_0_49 nd_1_0_9000_9500 nd_1_0_9000_9500_ci 43.1961
cd_0_0_0_49 nd_1_0_9000_9500_ci 0 4.63005e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_1500 nd0 'dcap_int_val150'
cd_add_cap1 nd_1_0_7000_1500 nd1 'dcap_int_val151'
cd_add_cap2 nd_1_0_3000_3500 nd2 'dcap_int_val152'
cd_add_cap3 nd_1_0_7000_3500 nd3 'dcap_int_val153'
cd_add_cap4 nd_1_0_3000_5500 nd4 'dcap_int_val154'
cd_add_cap5 nd_1_0_7000_5500 nd5 'dcap_int_val155'
cd_add_cap6 nd_1_0_3000_8500 nd6 'dcap_int_val156'
cd_add_cap7 nd_1_0_7000_8500 nd7 'dcap_int_val157'
rd_add0 nd0 0 'esr29'
rd_add1 nd1 0 'esr30'
rd_add2 nd2 0 'esr31'
rd_add3 nd3 0 'esr32'
rd_add4 nd4 0 'esr33'
rd_add5 nd5 0 'esr34'
rd_add6 nd6 0 'esr35'
rd_add7 nd7 0 'esr36'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2500  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_4500  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6500  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1500  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_3500  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_5500  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3000_7500  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_2500  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_4500  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_6500  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_5000_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1500  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_3500  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_5500  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_7000_7500  0.001

.ends chiplet4
